data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2692,2991,[Br:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2.[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:27](=[O:28])[O:29][CH3:30]>>[Br:1][C:2]12[C:3]([Br:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:16]([C:17](=[O:18])[O:19][CH3:20])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[NH:15][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:27](=[O:28])[O:29][CH3:30],water,298.15,34.17707795548931,-0.8234141115075208
1418,1560,[CH3:15][NH:16][C:17](=[O:18])[CH:19]=[NH+:20][CH-:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[F:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[F:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[CH:19]([C:17]([NH:16][CH3:15])=[O:18])[NH:20][CH:21]2[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,17.52857547722507,-23.99363573299502
1665,1837,[CH3:16][CH-:17][NH+:18]=[C:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[O:9][CH3:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[C:19]([C:20]([CH3:21])=[O:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[NH:18][CH:17]2[CH3:16],water,298.15,16.045190360017994,-19.939660277906587
2634,2921,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([C:13]#[N:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][NH:24][C:25](=[O:26])[C:27]([CH3:28])=[O+:29][C-:30]([C:31]#[N:32])[C:33](=[O:34])[O:35][CH3:36]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13]#[N:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:30]([C:31]#[N:32])([C:33](=[O:34])[O:35][CH3:36])[O:29][C:27]2([C:25]([NH:24][CH3:23])=[O:26])[CH3:28],water,298.15,12.18331492705024,-51.17911590573178
1272,1391,[CH3:16][C:17](=[O:18])[C:19]#[N+:20][CH-:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[N:1]#[C:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[CH:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[N:20]=[C:19]2[C:17]([CH3:16])=[O:18],water,298.15,13.707724969024,-31.16972766157756
2905,3228,[CH2:1]=[CH2:2].[CH3:3][C:4](=[O:5])[N-:6][N+:7]#[C:8][C:9]#[N:10]>>[CH2:1]1[CH2:2][N:6]([C:4]([CH3:3])=[O:5])[N:7]=[C:8]1[C:9]#[N:10],water,298.15,12.630094832951182,-58.58533079938545
3813,4365,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[CH:13]=[N+:14]([CH3:15])[C-:16]([CH3:17])[C:18]([CH3:19])=[O:20]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:16]([CH3:17])([C:18]([CH3:19])=[O:20])[N:14]([CH3:15])[CH:13]2[C:11]([O:10][CH3:9])=[O:12],water,298.15,13.218863426537936,-19.925560596327177
4806,5485,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[NH+:17][C-:18]([C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:18]([C:19]#[N:20])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[NH:17][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[CH3:16],water,298.15,32.14475762493329,0.4016426946837475
1199,1303,[CH3:14][CH:15]=[O+:16][C-:17]([C:18]([CH3:19])=[O:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[CH:6]=[C:7]2[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1>>[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[CH:6]1[C:7]2([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[CH:15]([CH3:14])[O:16][C:17]1([C:18]([CH3:19])=[O:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,14.667461261286109,-57.93241948864577
13,15,[CH3:4][O:5][C:6](=[O:7])[N-:8][NH+:9]=[C:10]([CH3:11])[C:12]#[N:13].[CH:1]#[C:2][CH3:3]>>[CH:1]1=[C:2]([CH3:3])[N:8]([C:6]([O:5][CH3:4])=[O:7])[NH:9][C:10]1([CH3:11])[C:12]#[N:13],water,298.15,27.26830619740928,-30.39435941411271
3082,3463,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][CH:8]=[NH+:9][CH-:10][C:11](=[O:12])[O:13][CH3:14]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[CH:10]([C:11](=[O:12])[O:13][CH3:14])[NH:9][CH:8]1[CH3:7],water,298.15,22.79896122616085,-18.68519833146281
4791,5470,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH2:15]=[O+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:17]([C:18](=[O:19])[NH:20][CH3:21])([C:22](=[O:23])[NH:24][CH3:25])[O:16][CH2:15]2,water,298.15,6.244928278773713,-37.79160318508689
